US05177087
1-Acetyl-3-(4-piperidinobenzoyl)piperidine
A mixture consisting of 3.73 g of 1-acetyl-3-(4-fluorobenzoyl)piperidine and 5 ml of piperidine was stirred at 100° C. for 24 hours and the reaction mixture was then worked up in the same manner as Example 1. The residue was recrystallized from ethyl ether-n-hexane to give 3.2 g of colorless crystals melting at 116°-120° C.

reactant | 1-acetyl-3-(4-fluorobenzoyl)piperidine | 3.73 g | C(C)(=O)N1CC(CCC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
product | 1-Acetyl-3-(4-piperidinobenzoyl)piperidine | 3.2 g | C(C)(=O)N1CC(CCC1)C(C1=CC=C(C=C1)N1CCCCC1)=O | C19H26N2O2
